US09056859B2
Step B: 5-(1-fluoro-2-piperazin-1-ylethyl)-4-methyl-2-benzofuran-1(3H)-one hydrochloride
1,1-Dimethylethyl-4-[2-fluoro-2-(4-methyl-1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethyl]piperazine-1-carboxylate (0.18 g) was treated with 4M HCl in dioxane (4 mL) and stirred at room temperature for 1 h. The mixture was then concentrated to dryness. Analysis by LC indicated complete removal of the Boc group and formation of compound 5-(1-fluoro-2-piperazin-1-ylethyl)-4-methyl-2-benzofuran-1(3B)-one hydrochloride. 1H-NMR (DMSO, 500 MHz), δ 7.744 (d, J=7.5 Hz, 1H), 7.612 (d, J=7.5 Hz, 1H), 6.264-6.167 (m, 1H), 5.382 (s, 2H), 3.362-3.309 (m, 2H), 3.255-3.125 (m, 8H), 3.078-3.049 (m, 1H), 2.499 (s, 3H)

reactant | 1,1-Dimethylethyl-4-[2-fluoro-2-(4-methyl-1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethyl]piperazine-1-carboxylate | 0.18 g | CC(C)(C)C1N(CCN(C1)CC(C1=C(C2=C(C(OC2)=O)C=C1)C)F)C(=O)[O-]
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 5-(1-fluoro-2-piperazin-1-ylethyl)-4-methyl-2-benzofuran-1(3H)-one hydrochloride | Cl.FC(CN1CCNCC1)C1=C(C2=C(C(OC2)=O)C=C1)C | InChI=1S/C15H19FN2O2.ClH/c1-10-11(2-3-12-13(10)9-20-15(12)19)14(16)8-18-6-4-17-5-7-18;/h2-3,14,17H,4-9H2,1H3;1H
